US07655666B2
2-Amino-5-(tetrahydro-furan-3-yl)-4-trifluoromethyl-benzoic acid methyl ester
2-Amino-5-furan-3-yl-4-trifluoromethyl-benzoic acid methyl ester (110 mg, 0.38 mmol) was dissolved in THF (15 mL) and, after addition of B113 W (Degussa) Ra/Ni (˜200 mg) in H2O the mixture was stirred for 26 d (TLC control) at 60° C. The mixture was filtered over Celite and evaporated under reduced pressure. The crude product was purified by flash chromatography with hexanes to hexanes/EtOAc 80:20 as eluent to furnish the title compound (51.3 mg, 46% yield) (290 [M+H]+, rt 5.52 min.).

reactant | 2-Amino-5-furan-3-yl-4-trifluoromethyl-benzoic acid methyl ester | 0.38 mmol, 110 mg | COC(C1=C(C=C(C(=C1)C1=COC=C1)C(F)(F)F)N)=O | C13H10F3NO3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
catalyst | Ni | ˜200 mg | [Ni] | Ni
product | 2-Amino-5-(tetrahydro-furan-3-yl)-4-trifluoromethyl-benzoic acid methyl ester | 51.3 mg, 46% yield | COC(C1=C(C=C(C(=C1)C1COCC1)C(F)(F)F)N)=O | C13H14F3NO3
